Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[H:11].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:12][H:13],1.56736390688
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10].[O:11][H:12],2.62119436988
[O:1][O:2][C:3]#[C:4][C:5][C:6]([H:7])[H:8]>>[C:3]#[C:4][C:5][C:6]([H:7])[H:8].[O:1]=[O:2],1.26927885658
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.57796789378
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3]#[C:4],2.48263554536
[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1],7.484621722589999
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],4.49860641083
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11],4.08310837691
[O:1][C:2]([C:3]#[C:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]#[C:4][H:5].[O:1]=[C:2]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.83389998759
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5],4.55282582764
[H:1][C:2].[O:3]=[C:4]([C:5]([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.7554693671
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3]([C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],3.35040579616
[H:1][O:2][C:3][C:8]([C:4]=[C:5]([H:6])[H:7])([H:9])[H:10]>>[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])[H:7])[C:8]1([H:9])[H:10],-2.03957601295
[C:1][C:2](=[O:3])[O:4][C:5]([H:6])([H:7])[H:8]>>[C:1][C:2](=[O:3])[O:4][C:5]([H:6])[H:7].[H:8],4.41335991747
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])=[C:8][H:9])[C:11]([H:12])[H:13],5.10013058777
[C:5]([H:6])=[C:7]([H:8])[H:9].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9],-1.26131323112
[C:11][H:12].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-10.601509421
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.93337064719
[H:16].[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.45688642024
[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.12562991146
[C:1]#[C:2][C:3]([H:4])[C@@:5]([H:6])([O:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[C:1]#[C:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.7130739493
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16].[H:6],1.92853887708
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.22947405926
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[H:8],2.40291999829
[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]1([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.0059571287602
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[H:4],0.29287745768
[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-5.03051806372
[H:1][C:2]1[O:3][O:4][C:5]1([H:6])[H:7]>>[H:1][C:2]([O:3][O:4])=[C:5]([H:6])[H:7],-0.89045461279
